US08536165B2
D. 5,6-Diphenylpyridin-3-amine
A mixture of 5-nitro-2,3-diphenylpyridine (0.74 mmol, 0.21 g) and Pd/C 10% (0.02 g) in methanol (5 ml) was stirred for 16 hours under hydrogen atmosphere. The catalyst was filtered off and the solid thoughtfully washed with methanol. The solid residue was purified by chromatography over SiO2 eluting with hexane/ethyl acetate mixtures affording 0.14 g (74% of yield) of the expected product.

reactant | 5-nitro-2,3-diphenylpyridine | 0.74 mmol, 0.21 g | [N+](=O)([O-])C=1C=C(C(=NC1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H12N2O2
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | 0.02 g | [Pd] | Pd
product | 5,6-Diphenylpyridin-3-amine | C1(=CC=CC=C1)C=1C=C(C=NC1C1=CC=CC=C1)N | C17H14N2
